US07282512B2
Preparation of (1-{[(6-methyl-4-phenyl-3-pyridazinyl)oxy]methyl}cyclobutyl)methanol
The title compound was prepared using the same experimental procedure as in example 25a from [1-(hydroxymethyl)cyclobutyl]methanol and 3-chloro-6-methyl-4-phenylpyridazine. 1H NMR (300 MHz, CDCl3) δ 7.58-7.25 (m, 6H), 4.64 (s, 2H), 3.59 (d, J=6 Hz, 2H), 3.05 (t, J=7 Hz, 1H), 2.63 (s, 3H), 2.00-1.73 (m, 6H). GC-MS m/z 285 (M+H).

reactant | [1-(hydroxymethyl)cyclobutyl]methanol | OCC1(CCC1)CO | C6H12O2
reactant | 3-chloro-6-methyl-4-phenylpyridazine | ClC=1N=NC(=CC1C1=CC=CC=C1)C | C11H9ClN2
product | (1-{[(6-methyl-4-phenyl-3-pyridazinyl)oxy]methyl}cyclobutyl)methanol | CC1=CC(=C(N=N1)OCC1(CCC1)CO)C1=CC=CC=C1 | C17H20N2O2
